US09085583B2
To a solution of 1-(pyridine-4-yl)ethanol (400 mg, 3.25 mmol) in THF (10 mL) was added sodium hydride (301 mg, 12.54 mmol) at 0° C. The mixture was stirred at 0° C. for 30 min. 4-methylbenzene-1-sulfonyl chloride (744 mg, 3.90 mmol) was added and the mixture was stirred at room temperature for 4 hr. Water (10 mL) was added and THF was removed under reduced pressure. The residue was extracted with ethyl acetate (20 mL×3). The organic layer was washed with brine and dried over sodium sulfate. The solvent was removed under vacuum and the residue was purified by column chromatography on silica gel (eluted: petroleum ether/ethyl acetate=2/1) to give 1-(pyridine-4-yl)ethyl 4-methylbenzenesulfonate (0.56 g, 62.2%). LCMS 278 (M+H+).

reactant | 1-(pyridine-4-yl)ethanol | 3.25 mmol, 400 mg | N1=CC=C(C=C1)C(C)O | C7H9NO
reactant | sodium hydride | 12.54 mmol, 301 mg | [H-].[Na+]
reactant | 4-methylbenzene-1-sulfonyl chloride | 3.90 mmol, 744 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | Water | 10 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(pyridine-4-yl)ethyl 4-methylbenzenesulfonate | 0.56 g, 62.2% | CC1=CC=C(C=C1)S(=O)(=O)OC(C)C1=CC=NC=C1 | C14H15NO3S
